US06756492B1
3′-O-[(6-nitroveratryl)oxycarbonyl]thymidine (21)
A solution of 1.97 g 5′-O-(4,4′-dimethoxytrityl)thymidine (3.62 mmol) in 18 ml absolute dichloromethane and 2 ml absolute pyridine is added in a nitrogen atomsphere and in the absence of light to an N-methyl-N3-[(6-nitroveratryl)oxycarbonyl]imidazoliumchloride acylation reaction (19) (produced from 7.25 mmol chloroformic acid-6-nitroveratryl ester). The reaction mixture is stirred in the dark at 4° C. overnight. The molecular sieve is separated and the organic phase is extracted twice against saturated NaHCO3 (100 ml). After drying via Na2SO4, 200 ml of a 10% trichloroacetic acid in dichloroethane are added to the organic phase and stirred at room temperature for 5 minutes. The deep-red solution is extracted twice with saturated NaHCO3 (200 ml), the organic phase is dried via Na2SO4 and evaporated. Purification via flash chromatography (66-80% ethyl acetate in toluene) yielded 1.153 g of the title compound (66% yield)

reactant | 5′-O-(4,4′-dimethoxytrityl)thymidine | 3.62 mmol, 1.97 g | COC1=CC=C(C(C2=CC=C(C=C2)OC)(C2=CC=CC=C2)OC[C@@H]2[C@H](C[C@@H](O2)N2C(=O)NC(=O)C(C)=C2)O)C=C1 | C31H32N2O7
reactant | N-methyl-N3-[(6-nitroveratryl)oxycarbonyl]imidazoliumchloride | [Cl-].C[N+]1=CN(C=C1)C(=O)OCC1=CC(OC)=C(OC)C=C1[N+](=O)[O-]
solvent | dichloromethane | 18 ml | ClCCl | CH2Cl2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 3′-O-[(6-nitroveratryl)oxycarbonyl]thymidine | 1.153 g, 66% yield | [N+](=O)([O-])C1=CC(=C(C=C1COC(=O)O[C@H]1C[C@@H](O[C@@H]1CO)N1C(=O)NC(=O)C(C)=C1)OC)OC | C20H23N3O11
